US04575507
2-Hydroxy-6-fluorospiro[chroman-4,4'-imidazolidine]2',5'-dione
To a slurry of 640 mg. (0.002 mole) of 6-fluorospiro[chroman-4,4'-imidazolidine]2,2',5'-trione in 40 ml. of toluene at -78° C. was added 852 mg. (0.006 mole) of diisobutylaluminum hydride in hexane, and the reaction mixture allowed to stir at -78° C. for 30 minutes. The reaction was allowed to warm to 0° C. and was stirred for 24 hours. The reaction was recooled to -40° C., 6 ml. of dry tetrahydrofuran was added and the reaction warmed to 0° C. Additional diisobutylaluminum hydride (1.0 ml) was added in 0.2 ml. portions. The reaction mixture was added to 10% hydrochloric acid and the mixture extracted with ethyl acetate. The combined extracts were washed dried and concentrated to dryness. The residue was chromatographed to give 67 mg. of the desired compound, m.p. 247°-251° C. (dec.).

reactant | 6-fluorospiro[chroman-4,4'-imidazolidine]2,2',5'-trione | 0.002 mole | FC=1C=C2C(=CC1)OC(CC21NC(NC1=O)=O)=O | C11H7FN2O4
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | diisobutylaluminum hydride | 0.006 mole | [H-].C(C(C)C)[Al+]CC(C)C
reactant | diisobutylaluminum hydride | 1.0 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hydrochloric acid | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-Hydroxy-6-fluorospiro[chroman-4,4'-imidazolidine]2',5'-dione | OC1OC2=CC=C(C=C2C2(NC(NC2=O)=O)C1)F | C11H9FN2O4
